US05968949
(±)-trans-2-Ethyl-4a-(3-methoxyphenyl)-6-phenyl-1,2,3,4,4a,5,8,8a-octahydroisoquinoline
The reaction was conducted as described in Example 2, using 0.79 g (2.16 mmol) of (±)-trans-1,2,3,4,4a,5,6,7,8,8a-decahydro-2-ethyl-4a-(3-methoxyphenyl)-6-phenyl-6-isoquinolinol and 30 ml of 37% HCl, yielding 0.77 g of the title compound. C24H29NO

reactant | (±)-trans-1,2,3,4,4a,5,6,7,8,8a-decahydro-2-ethyl-4a-(3-methoxyphenyl)-6-phenyl-6-isoquinolinol | 2.16 mmol, 0.79 g | C(C)N1C[C@@H]2CCC(C[C@]2(CC1)C1=CC(=CC=C1)OC)(O)C1=CC=CC=C1 | C24H31NO2
solvent | HCl | 30 ml | Cl | ClH
product | (±)-trans-2-Ethyl-4a-(3-methoxyphenyl)-6-phenyl-1,2,3,4,4a,5,8,8a-octahydroisoquinoline | 0.77 g | C(C)N1C[C@@H]2CC=C(C[C@]2(CC1)C1=CC(=CC=C1)OC)C1=CC=CC=C1 | C24H29NO
